US07691882B2
1-Chloromethyl-3-phenoxy-benzene
To a solution of (3-phenoxy-phenyl)-methanol (2.00 g, 10.0 mmol) in carbon tetrachloride (40 mL) was added triphenylphosphine (3.15 g, 12.0 mmol) at room temperature. The reaction solution was stirred under nitrogen atmosphere for 5 hours and 40 minutes under reflux. The reaction mixture was cooled to room temperature and concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=10:1) to obtain the title compound (2.05 g, 94%).

reactant | (3-phenoxy-phenyl)-methanol | 10.0 mmol, 2.00 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)CO | C13H12O2
reactant | triphenylphosphine | 12.0 mmol, 3.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Chloromethyl-3-phenoxy-benzene | 2.05 g, 94% | ClCC1=CC(=CC=C1)OC1=CC=CC=C1 | C13H11ClO
